US07199147B2
Triethylamine (2.1 ml, 15 mmol) was added to a suspension of 5-aminoindazole (1.00 g, 7.51 mmol) in tetrahydrofuran (10 ml) at room temperature, followed by adding thereto a solution of 4-chlorobutyryl chloride (1.16 g, 8.26 mmol) in tetrahydrofuran (5 ml) at 0° C., and the resulting mixture was stirred at 0° C. for 1 hour. Then, a 1N-aqueous sodium hydroxide solution was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was suspended in ethanol and stirred, followed by filtration. The solid collected by the filtration was dried under reduced pressure to obtain 4-chloro-N-(1H-indazol-5-yl)butanamide (572 mg, 32%).

reactant | Triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | 5-aminoindazole | 7.51 mmol, 1.00 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | 4-chlorobutyryl chloride | 8.26 mmol, 1.16 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-chloro-N-(1H-indazol-5-yl)butanamide | 572 mg, 32% | ClCCCC(=O)NC=1C=C2C=NNC2=CC1 | C11H12ClN3O
